US04191711
A mixture of 57.5 g (250 mmol) of p-chlorobenzotrichloride, 1.5 g (9.2 mmol) of iron(III) chloride and 28 g (272 mmol) of sulphur dichloride was warmed to 80° C. for 3 hours. Thereafter, it was worked up in the manner indicated in Example 1. 34 g of 3,4-dichlorobenzotrichloride were thus obtained.

reactant | p-chlorobenzotrichloride | 250 mmol, 57.5 g | ClC1=CC=C(C=C1)C(Cl)(Cl)Cl | C7H4Cl4
reactant | sulphur dichloride | 272 mmol, 28 g | S(Cl)Cl | Cl2S
catalyst | iron(III) chloride | 9.2 mmol, 1.5 g | [Fe](Cl)(Cl)Cl
product | 3,4-dichlorobenzotrichloride | 34 g | ClC=1C=C(C=CC1Cl)C(Cl)(Cl)Cl | C7H3Cl5
